US06727264B1
N-(3-{1-[7-(2-FLUOROPHENYL)-7-OXOHEPTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
A 50-mL round-bottom flask was charged with a solution of 7-chloro-1-oxo-1(2-fluorophenyl)heptane (2.42 g, 10.0 mmol), 2-methyl-N-[3-(4-piperidyl)phenyl]propanamide (2.46 g, 10.0 mmol), K2CO3 (2.76 g, 20.0 mmol) and NaI (2.25 g, 15.0 mmol) in DMF (25.0 mL). The mixture was stirred for 10 min at 25° C. and then heated at 100° C. for 12 h, cooled to 25° C. and diluted with EtOAc (100 mL) The reaction mixture was washed with water (4×50 mL) and the aqueous layer was extracted with EtOAc (100 mL). The organic layers were washed with brine (50 mL), dried over MgSO4, concentrated in vacuo and the crude product was purified by chromatography (EtOAc:MeOH 97:3) to give the desired product (3.70 g, 82.0%).

reactant | 7-chloro-1-oxo-1(2-fluorophenyl)heptane | 10.0 mmol, 2.42 g | ClCCCCCCC(C1=C(C=CC=C1)F)=O | C13H16ClFO
reactant | 2-methyl-N-[3-(4-piperidyl)phenyl]propanamide | 10.0 mmol, 2.46 g | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | K2CO3 | 20.0 mmol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 15.0 mmol, 2.25 g | [Na+].[I-]
solvent | DMF | 25.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-(3-{1-[7-(2-FLUOROPHENYL)-7-OXOHEPTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | 3.70 g, 82.0% | FC1=C(C=CC=C1)C(CCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C28H37FN2O2
